US07790737B2
N-(5-Hydroxypyrimidin-2-yl)hexanamide (8.18 g, 39 mmol) and triphenylphosphine (20.5 g, 78 mmol) were mixed, and dried under reduced pressure, and then the atmosphere was substituted with argon. These substances were dissolved by heating in anhydrous N,N-dimethylformamide (80 mL), and the solution was cooled to room temperature, and then added with 2-methylthioethanol (5.4 g, 58.6 mmol). The reaction mixture was added with DEAD (2.2 M solution in toluene, 26.6 mL, 58.6 mmol) on an ice bath, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was added with water (300 mL), and the mixture was stirred for 15 minutes, and then and extracted with chloroform. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure, the resulting residue was dissolved in saturated ammonia in methanol (60 mL), and the solution was left at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1→hexane:acetone=2:1), and the concentrated residue was dissolved in chloroform by heating. The crystals obtained by ice cooling of the solution were removed, and the filtrate was concentrated under reduced pressure. The residue was recrystallized from chloroform-hexane to obtain N-{5-[2-(methylthio)ethoxy]pyrimidin-2-yl}hexanamide (6.8 g, 61%) as pale dark brown solid.

reactant | N-(5-Hydroxypyrimidin-2-yl)hexanamide | 39 mmol, 8.18 g | OC=1C=NC(=NC1)NC(CCCCC)=O | C10H15N3O2
reactant | triphenylphosphine | 78 mmol, 20.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-methylthioethanol | 58.6 mmol, 5.4 g | CSCCO | C3H8OS
reactant | DEAD | 58.6 mmol, 2.2 M, 26.6 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | water | 300 mL | O | H2O
product | N-{5-[2-(methylthio)ethoxy]pyrimidin-2-yl}hexanamide | 6.8 g, 61% | CSCCOC=1C=NC(=NC1)NC(CCCCC)=O | C13H21N3O2S
